US08748626B2
To a solution of 5-benzyl-2-(2,5-difluorophenyl)thiazole-4-carbaldehyde (5.2 g, 16.49 mmol) in THF (55.0 mL) was added (R)-(+)-t-butylsulfinamide (2.2 g, 18.14 mmol), and Ti(OEt)4 (7.52 mL, 36.3 mmol). The reaction mixture was stirred for 4 h at room temperature. The reaction mixture was diluted with brine (50 mL) and EtOAc (70 mL) followed by addition of Celite®. Then, the mixture was vigorously stirred for 1 h, and filtered. The filtrate was extracted by EtOAc. The organic layers was washed with water and brine, dried over anhydrous Na2SO4, filtered, and concentrated. The crude product was purified by automatic column chromatography to yield (R)—N-((5-benzyl-2-(2,5-difluorophenyl)thiazol-4-yl)methylene)-2-methylpropane-2-sulfinamide (6.5 g, 94%) as pale yellow solid. 1H NMR (CDCl3, 400 MHz): δ 8.91 (1H, s), 8.04 (1H, m), 7.38-7.22 (5H, m), 7.16-7.05 (2H, m), 4.62 (2H, s), 1.25 (9H, s). LC/MS (uplc): MH+ 419.1, 1.31 min.

reactant | 5-benzyl-2-(2,5-difluorophenyl)thiazole-4-carbaldehyde | 16.49 mmol, 5.2 g | C(C1=CC=CC=C1)C1=C(N=C(S1)C1=C(C=CC(=C1)F)F)C=O | C17H11F2NOS
reactant | (R)-(+)-t-butylsulfinamide | 18.14 mmol, 2.2 g | C(C)(C)(C)[S@@](=O)N | C4H11NOS
solvent | THF | 55.0 mL | C1CCOC1 | C4H8O
solvent | brine | 50 mL | [Cl-].[Na+].O
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
product | (R)—N-((5-benzyl-2-(2,5-difluorophenyl)thiazol-4-yl)methylene)-2-methylpropane-2-sulfinamide | 6.5 g, 94% | C(C1=CC=CC=C1)C1=C(N=C(S1)C1=C(C=CC(=C1)F)F)C=N[S@](=O)C(C)(C)C | C21H20F2N2OS2
